US08633313B2
2-Methyl-3-nitropyridine (24 g, 173.91 mmol) was dissolved in 1,4-dioxane (500 mL) and to the mixture was added selenium dioxide (23 g, 208.7 mmol) and the mixture was heated under reflux for 16 h. After completion of reaction, the mixture was cooled to rt and filtered through Celite™ and the filtrate was concentrated under reduced pressure to give thick oily mass. The oily mass was purified by silical gel column chromatography using 20% of ethyl acetate and hexane as eluent to give 3-nitro-2-pyridinecarbaldehyde as an off white solid: 1H-NMR (CDCl3) δ: 7.7 (m, 1H), 8.3 (d, 1H), 9.0 (d, 1H), 10.3 (s, 1H).

reactant | 2-Methyl-3-nitropyridine | 173.91 mmol, 24 g | CC1=NC=CC=C1[N+](=O)[O-] | C6H6N2O2
reactant | selenium dioxide | 208.7 mmol, 23 g | [Se](=O)=O | O2Se
solvent | 1,4-dioxane | 500 mL | O1CCOCC1 | C4H8O2
product | 3-nitro-2-pyridinecarbaldehyde | [N+](=O)([O-])C=1C(=NC=CC1)C=O | C6H4N2O3
